US08217176B2
Production of 3-ethoxy-6-ethyl-N-[1-(hydroxyacetyl)piperidin-4-yl]-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxamide
A mixed solution of 2-[4-({[3-ethoxy-6-ethyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridin-2-yl]carbonyl}amino)piperidin-1-yl]-2-oxoethyl acetate (90 mg, 0.18 mmol) and potassium carbonate (39 mg, 0.28 mmol) in THF (8 mL)-methanol (2 mL)-water (2 mL) was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the residue was partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (64 mg, 69%) as white crystals.

reactant | 2-[4-({[3-ethoxy-6-ethyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridin-2-yl]carbonyl}amino)piperidin-1-yl]-2-oxoethyl acetate | 0.18 mmol, 90 mg | C(C)(=O)OCC(=O)N1CCC(CC1)NC(=O)C1=C(C=2C(N(C(=CC2S1)CC)CC(C1=CC=CC=C1)=O)=O)OCC | C29H33N3O7S
reactant | potassium carbonate | 0.28 mmol, 39 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 2 mL | CO | CH4O
reactant | water | 2 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-ethoxy-6-ethyl-N-[1-(hydroxyacetyl)piperidin-4-yl]-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]pyridine-2-carboxamide | 64 mg, 69% | C(C)OC1=C(SC2=C1C(N(C(=C2)CC)CC(C2=CC=CC=C2)=O)=O)C(=O)NC2CCN(CC2)C(CO)=O | C27H31N3O6S
